US07923450B2
b) 2-(3,4,5-Trifluoro-phenyl)-cyclohexanone
To a solution of 2-(3,4,5-trifluoro-phenyl)-cyclohexanol (215 mg, 0.93 mmol) dissolved in methylene chloride (15 mL) was added under nitrogen Dess-Martin reagent (475 mg, 1.1 mmol, 15 weight-percent in methylene chloride). The reaction was stirred at room temperature over night. The same amount of Des-Martin reagent was added and the reaction was stirred at room temperature over night. The reaction was poured onto a saturated sodium bicarbonate solution. The organic layer was washed with 10% aqueous sodium thiosulfate solution and brine, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was stirred with heptane/ethyl acetate (7:3 v/v) and the solid was filtered off to yield the title compound (202 mg, 95%) as a yellow solid. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.10-7.20 (m, 2H), 3.84 (dd, 1H), 2.28-2.33 (m, 2H), 1.65-2.12 (m, 6H).

reactant | 2-(3,4,5-trifluoro-phenyl)-cyclohexanol | 0.93 mmol, 215 mg | FC=1C=C(C=C(C1F)F)C1C(CCCC1)O | C12H13F3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4,5-Trifluoro-phenyl)-cyclohexanone | 202 mg, 95% | FC=1C=C(C=C(C1F)F)C1C(CCCC1)=O | C12H11F3O
